* F:\source\gect-pump-sensor\GECT ECE Pump Pressure Sensor Module\plot\RC sim.asc
V1 N002 0 PWL file="F:\source\gect-pump-sensor\GECT ECE Pump Pressure Sensor Module\dataLogs\25msDataPot5to3.log.pwl"
C1 N003 0 22µ
R1 N003 N002 56k
R2 N004 N003 56k
C2 N004 0 22µ
V2 N001 0 AC 1 0
R3 N001 0 100k
.tran 0 148 0 0.025
* .ac lin 10000 10m 100
.backanno
.end
